US04010209
To a solution of 14.7 g. (0.076 mole) of 1-(chloropropoxy)-3-methyl-3-phospholene in 50 ml. of 1,2-dichloroethane was added, with stirring, over a period of 5 minutes, a total of 14.14 g. (0.23 mole) of ethylene glycol. The resulting solution was cloudy. Ethyl bromide (1.66 g.) was added and the mixture was heated under reflux for 1 hour. At the end of this time the solvent and other volatile materials were removed by evaporation and the residue was distilled under reduced pressure. There was thus obtained 1.3 g. (10.6% theoretical yield) of a mixture of the 2- and 3-isomers of 1-(2-hydroxyethyl)-3-methylphospholene-1-oxide in the form of a liquid having a boiling point of 125° - 150° C at 0.2 mm. of mercury. A glassy residue remained in the distillation flask and was believed to be 1,1'-ethylenebis-(3-methylphospholene-1-oxide).

reactant | 1-(chloropropoxy)-3-methyl-3-phospholene | 0.076 mole | ClCCCOP1CC(=CC1)C | C8H14ClOP
reactant | ethylene glycol | 0.23 mole | C(CO)O | C2H6O2
reactant | Ethyl bromide | 1.66 g | C(C)Br | C2H5Br
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 1-(2-hydroxyethyl)-3-methylphospholene-1-oxide | OCCP1(C=C(CC1)C)=O | C7H13O2P
